US04781921
(IV-a): Propylene oxide (142.4 g, 2.4 mol) was added dropwise over a period of 11 hours to a solution of ethylenediamine (71.9 g, 1.2 mol) in 25 mL absolute ethanol and 10 mL of nitrogen purged distilled water at 90° C. After addition, the reaction was maintained for an additional hour, then cooled to room temperature (about 20° C.). The reaction solution was concentrated by rotary evaporation to give a milky white suspension which, upon dissolution in anhydrous ether, produced a white precipitate of N,N'-bis(2-hydroxypropyl)ethylenediamine in 28.5 percent yield. The product was crystallized from methanol/ethanol [m.p. 132° C., IR(Nujol):3250(OH); NMR(MeOHd4): δ3.8(m, 2H); 2.6(t, 8H); 1.2(d, 6H)].

reactant | Propylene oxide | 2.4 mol, 142.4 g | C1C(C)O1 | C3H6O
reactant | ethylenediamine | 1.2 mol, 71.9 g | C(CN)N | C2H8N2
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | N,N'-bis(2-hydroxypropyl)ethylenediamine | 28.5 percent yield | OC(CNCCNCC(C)O)C | C8H20N2O2
